* C:\Users\caiod\OneDrive\Documentos\Projetos Python\Graduacao\LAB VI\ltspice\Draft1 (perceptron) - 3N.asc
* Generated by LTspice 26.0.0 for Windows.
R1 N019 4.5V 100k
R9 N019 N018 220k
R10 N015 N016 100k
R12 N016 4.5V 100k
R13 VCC N022 1k
R14 N022 0 1k
V1 VCC 0 9
V§W1 W1 0 5.78
R2 N016 N021 100k
V§SW2 SW2 0 PULSE(0 5 20 1u 1u 20 40)
V§SW1 SW1 0 PULSE(0 5 10 1u 1u 10 20)
X§U1 N018 W6 VCC 0 N020 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U2 N016 N019 VCC 0 N018 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U3 N022 4.5V VCC 0 4.5V LM324 ;§pnba In+)In-)V+)V-)OUT
R3 N004 4.5V 100k
R6 N004 N003 220k
R7 N001 N002 100k
R8 N002 4.5V 100k
R11 N002 N007 100k
X§U4 N003 W3 VCC 0 N005 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U5 N002 N004 VCC 0 N003 LM324 ;§pnba In+)In-)V+)V-)OUT
V§W3 W3 0 1.58
R4 N011 3.75V 100k
R5 N011 N010 220k
R15 N008 N009 100k
R16 N009 3.75V 100k
R17 N009 N014 100k
X§U6 N010 W9 7.5V 0 N012 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U7 N009 N011 7.5V 0 N010 LM324 ;§pnba In+)In-)V+)V-)OUT
R18 N012 N017 100
D§LED N017 3.75V D
R19 7.5V N023 1k
R20 N023 0 1k
V2 7.5V 0 7.5
X§U8 N023 3.75V 7.5V 0 3.75V LM324 ;§pnba In+)In-)V+)V-)OUT
R21 N005 N006 {10k-p1}
R22 N006 0 {p1}
R23 N013 N020 {10k-p2}
R24 0 N013 {p2}
V§W9 W9 0 4.14
S1 W1 N001 SW1 0 SW
S2 W2 N007 SW2 0 SW
S3 W4 N015 SW1 0 SW
S4 W5 N021 SW2 0 SW
V§W2 W2 0 0.97
V§W4 W4 0 7.03
V§W6 W6 0 7.46
V§W5 W5 0 1.83
S5 N014 N013 N020 0 SW
S6 N008 N006 N005 0 SW
.model D D
.lib C:\Users\caiod\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 40
.model sw SW(Vt=2.5 Vh=0.2 Ron=10 Roff=10Meg)
.inc LM324.ti.lib
.param w7=4.88 w8=1.32 p1={w7*10k/7.5} p2={w8*10k/7.5}
.backanno
.end
